US05302720
A mixture of 2-amino-3'-methylbiphenyl hydrochloride (1.09 g), N-cyanopiperidine (0.6 g) and m-cresol (0.5 ml) was heated at 100° C. for 3 hours to give N-(3'-methyl-2-biphenylyl)piperidine-1-carboxamidine (m.p. 131° C.).

reactant | 2-amino-3'-methylbiphenyl hydrochloride | 1.09 g | Cl.NC1=C(C=CC=C1)C1=CC(=CC=C1)C
reactant | N-cyanopiperidine | 0.6 g | C(#N)N1CCCCC1 | C6H10N2
reactant | m-cresol | 0.5 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(3'-methyl-2-biphenylyl)piperidine-1-carboxamidine | CC=1C=C(C=CC1)C1=C(C=CC=C1)NC(=N)N1CCCCC1 | C19H23N3
